US05626960
DMAc N,N-dimethylacetamide solvent.
CYANOX® 1790 1,3,5-tris(4-t-butyl-3-hydroxy-2,6-dimethyl-benzyl)-1,3,5-triazine-2,4,6(1H,3H,5H)trione antioxidant, sold by Cytec Industries.

reactant | CYANOX | COP(=S)(OC)OC1=CC=C(C=C1)C#N | C9H10NO3PS
reactant | 1,3,5-tris(4-t-butyl-3-hydroxy-2,6-dimethyl-benzyl)-1,3,5-triazine-2,4,6(1H,3H,5H)trione | C(C)(C)(C)C1=C(C(=C(CN2C(N(C(N(C2=O)CC2=C(C(=C(C=C2C)C(C)(C)C)O)C)=O)CC2=C(C(=C(C=C2C)C(C)(C)C)O)C)=O)C(=C1)C)C)O | C42H57N3O6
product | DMAc N,N-dimethylacetamide | CC(=O)N(C)C.CN(C(C)=O)C | 2C4H9NO
